US07501538B2
(2S)-{5-chloro-2-[(naphthalen-1-ylmethyl)-amino]-benzoylamino}-3-(4′-phenoxy-biphenyl-4-yl)-propionic acid
(S)-3-(4-Bromo-phenyl)-2-{5-chloro-2-[(naphthalen-1-ylmethyl)-amino]-benzoylamino}-propionic acid methyl ester (150 mg, 0.36 mmol), Pd (PPh3)4 (84 mg, 0.072 mmol), and 4-phenoxyphenylboronic acid (233 mg, 1.09 mmol) were dissolved in 5 mL of toluene, a 1M Na2CO3 solution (0.9 mL, 0.91 mmol) added and the mixture heated at 80° C. for 12 h. The reaction mixture was diluted with 5 mL of CH2Cl2 and filtered, all volatiles are removed under vaccum and the ester product was hydrolyzed according to Procedure C, and purified over silica gel (ethyl acetate:hexanes) to give the title compound(118 mg) as a white solid.

reactant | (S)-3-(4-Bromo-phenyl)-2-{5-chloro-2-[(naphthalen-1-ylmethyl)-amino]-benzoylamino}-propionic acid methyl ester | 0.36 mmol, 150 mg | COC([C@H](CC1=CC=C(C=C1)Br)NC(C1=C(C=CC(=C1)Cl)NCC1=CC=CC2=CC=CC=C12)=O)=O | C28H24BrClN2O3
reactant | 4-phenoxyphenylboronic acid | 1.09 mmol, 233 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | Na2CO3 | 0.91 mmol, 1M, 0.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd (PPh3)4 | 0.072 mmol, 84 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S)-{5-chloro-2-[(naphthalen-1-ylmethyl)-amino]-benzoylamino}-3-(4′-phenoxy-biphenyl-4-yl)-propionic acid | 118 mg | ClC=1C=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=CC=C(C=C2)OC2=CC=CC=C2)C1)NCC1=CC=CC2=CC=CC=C12 | C39H31ClN2O4
